US07081465B2
4-(2-Naphthyloxy)-1-chlorobutane (IV: R1═R2═H, X2=Cl, n=4)
A mixture of β-naphthol (1gm, 0.006 mole), anhydrous K2CO3 (10 gm, in excess) and 1-bromo 4-chlorobutane (0.8 ml, 0.006 mole) was refluxed in dry acetone (50 ml) for 6 hours. Reaction mixture was filtered and filtrate was concentrated to get oily compound, which was crystallized with benzene-hexane to give the colorless crystals of pure desired compound, m.p. 112° C., (yield 1.6 gm, 98%).

reactant | β-naphthol | 0.006 mole, 1gm | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | K2CO3 | 10 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo 4-chlorobutane | 0.006 mole, 0.8 ml | BrCCCCCl | C4H8BrCl
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(2-Naphthyloxy)-1-chlorobutane | C1=C(C=CC2=CC=CC=C12)OCCCCCl | C14H15ClO
